*****************************************************************
* INFINEON Power Transistors                                    *
* PSPICE Library for n-channel and p-channel transistors        *
* (simplified models, also suitable for other Spice variants)   *
* Version 240715                                                *
*                                                               *
*                                                               *
* Models provided by Infineon are not warranted by Infineon as  *
* fully representing all the specifications and operating       *
* characteristics of the semiconductor product to which the     *
* model relates. The models describe the characteristics of     *
* typical devices.                                              *
* In all cases, the current data sheet information for a given  *
* device is the final design guideline and the only actual      *
* performance specification.                                    *
* Although models can be a useful tool in evaluating device     *
* performance, they cannot model exact device performance under *
* all conditions, nor are they intended to replace bread-       *
* boarding for final verification. INFINEON therefore does not  *
* assume any liability arising from their use.                  *
* INFINEON reserves the right to change models without prior    *
* notice.                                                       *
*                                                               *
* This library contains models of the following INFINEON        *
* transistors:                                                  *
*                                                               *
*   BSL716SN       (n-channel,  75 V enhancement)               *
*   BSP716N        (n-channel,  75 V enhancement)               *
*****************************************************************

.SUBCKT K_75_y_var dd g s Tj PARAMS: a=1 Rsp=1 dVth=0 dR=0 dgfs=0 Inn=1 
+Unn=1 Rmax=1 gmin=1 Rs=1 Rp=1 dC=0 
 
.PARAM  Fm=0.15    Fn=0.5      al=1
.PARAM  c=0.8487   Vth0=1.91   auth=2.4m
.PARAM  UT=100m    ab=85m      lB=-22.1     UB=90

.PARAM  b0=18.98   p0=4.896    p1=-15m      p2=24u

.PARAM  Rd=110m    nmu=2.59    Tref=298     T0=273     lnIsj=-23
.PARAM  ndi=1.3    Rdi=16.2m   nmu2=0.071   ta=30n       
.PARAM  Rf=0.24    nmu3=1.5

.PARAM  kbq=85.8u
.PARAM  rand=1   

.PARAM  f3=200p
.PARAM  f2=195p   U0=1         nd=0.7       f2b=1p
.PARAM  f1=480p   nc=0.925     g1=2.76      bb=0      remp=8.7p

.PARAM  Vmin=1.41     Vmax=2.41    dCmax=0.33
.PARAM  Vth={Vth0+(Vmax-Vth0)*limit(dVth,0,1)-(Vmin-Vth0)*limit(dVth,-1,0)}
.PARAM  q0={b0*((T0/Tref)**nmu3)*a}
.PARAM  q1={(Unn-Inn*Rs-Vth0)*q0}
.PARAM  q2={(Fm*SQRT(0.4)-c)*Inn*q0}
.PARAM  Rlim={(q1+2*q2*Rmax-SQRT(q1**2+4*q2))/(2*q2)}
.PARAM  dRd={Rd/a+if(dVth==0,limit(dR,0,1)*max(Rlim-Rd/a-Rs-Rp,0),0)}
.PARAM  bm={c/((1/gmin-Rs)**2*Inn*a*(T0/Tref)**nmu3)}
.PARAM  bet={b0+(b0-bm)*if(dR==0,if(dVth==0,limit(dgfs,-1,0),0),0)}
.PARAM  dC1={1+dCmax*limit(dC,0,1)}
.PARAM  dC2={1+1.5*dCmax*limit(dC,0,1)}

.PARAM  Cds0={f2*a*dC1}
.PARAM  Cox={f1*a*dC2}
.PARAM  Cox1={remp*SQRT(a)*dC2}
.Param  Cgs0={f3*a*dC1}
.PARAM  dRdi={Rdi/a}


.FUNC  I0(Uee,p,pp,z1)  {if(Uee>pp,(Uee-c*z1)*z1,p*(pp-p)/c*exp((Uee-pp)/p))}
.FUNC  Ig(Uds,T,p,Uee)  {bet*(T0/T)**nmu3*I0(Uee,p,min(2*p,p+c*Uds),min(Uds,Uee/(2*c)))}
.FUNC J(d,g,T,da,s) 
+ {a*(s*(Ig(da,T,(p0+(p1+p2*T)*T)*kbq*T,g-Vth+auth*(T-Tref)+Fm*da**Fn+1*limit(-d,0,1))+exp(min(lB+(d-UB-ab*(T-Tref))/UT,25))))}
 
E_Edg     d   ox  VALUE {1*(max(V(d,g),-bb)-(1/(g1*(1-nc))*((1/(1+g1*max(V(d,g)+bb,0)))**(nc-1)-(1/(1+g1*bb))**(nc-1))))}
C_Cdg    ox    g  {Cox}
C_Cdg1   d     g  {Cox1}

E_Eds    d    edep  VALUE {V(d,s)-1/(1-nd)*U0*((limit(1+V(d,s)/U0,0,2*UB))**(1-nd)-1)}
C_Cds  edep    s  {Cds0*0.99}

C_Cgs   g    s   {Cgs0}
 
G_chan   d5a   s  VALUE={J(V(d5a,s),V(g,s),T0+limit(V(Tj),-200,500),(SQRT(1+4*al*abs(V(d5a,s)))-1)/2/al,sgn(V(d5a,s)))}
Rd06     d5a  d5  0.1u 
V_sm     d    d5
G_RMos   d1    d  VALUE={V(d1,d)/(Rf*dRd+(1-Rf)*dRd*((limit(V(Tj),-200,999)+T0)/Tref)**nmu)}
V_sense  dd   d1  0

G_Rdio   d2   d1  VALUE={V(d2,d1)/(dRdi*((limit(V(Tj),-200,999)+T0)/Tref)**nmu2)}
V_sense2 d2   d3  0

Dbody s d3 dbody
.model dbody D (BV= {UB*10},CJO ={Cds0/100},TT ={ta},IS ={a*exp(lnIsj)} m={0.5} RS={dRdi*1m} n={ndi})

R1        g    s  1G
Rd01      d    s  500Meg
Rd02     d2    s  500Meg
Rd03     d1    d  1k

G_TH      0   Tj  VALUE =
+{(I(V_sense)-I(V_sense2))*V(d1,d)+I(V_sm)*V(d,s)+I(V_sense2)*V(d1,s)}
 
.ENDS

*************

.SUBCKT BSL716SN drain gate source Tj Tcase PARAMS: dVth=0 dRdson=0 dgfs=0 dC=0 Zthtype=0

.PARAM Rs=0.012     Rg=22        Ls=3n        Ld=1n        Lg=3n
.PARAM Inn=2.5      Unn=10       Rmax=0.15
.PARAM act=1.088

X1  d1 g s Tj K_75_y_var PARAMS: a={act} dVth={dVth} dR={dRdson} Inn={Inn} Unn={Unn} 
                                        +Rmax={Rmax} dgfs={dgfs} Rs={Rs} dC={dC}

Rg    g1     g    {Rg}   
Lg    gate   g1   {Lg*if(dgfs==99,0,1)}
Gs    s1     s    VALUE={V(s1,s)/(Rs*(1+(limit(V(Tj),-200,999)-25)*4m))}
Rsa   s1     s    1Meg
Ls    source s1   {Ls*if(dgfs==99,0,1)}
Ld    drain  d1   {Ld*if(dgfs==99,0,1)}

Rth1  Tj      t1              {36.28m+limit(Zthtype,0,1)*13.42m}
Rth2  t1      t2              {354.32m+limit(Zthtype,0,1)*131.13m}
Rth3  t2      t3              {2.1+limit(Zthtype,0,1)*389.18m}
Rth4  t3      t4              {4.79+limit(Zthtype,0,1)*126.56m}
Rth5  t4      Tcase           {16.62+limit(Zthtype,0,1)*439.11m}
Cth1  Tj      0               9.457u
Cth2  t1      0               28.085u
Cth3  t2      0               256.579u
Cth4  t3      0               137.027u
Cth5  t4      0               2.441m


.ENDS

********************

.SUBCKT BSP716N drain gate source Tj Tcase PARAMS: dVth=0 dRdson=0 dgfs=0 dC=0 Zthtype=0

.PARAM Rs=0.014     Rg=22        Ls=3n        Ld=1n        Lg=3n
.PARAM Inn=2.3      Unn=10       Rmax=0.16
.PARAM act=1.088

X1  d1 g s Tj K_75_y_var PARAMS: a={act} dVth={dVth} dR={dRdson} Inn={Inn} Unn={Unn} 
                                        +Rmax={Rmax} dgfs={dgfs} Rs={Rs} dC={dC} 

Rg    g1     g    {Rg}   
Lg    gate   g1   {Lg*if(dgfs==99,0,1)}
Gs    s1     s    VALUE={V(s1,s)/(Rs*(1+(limit(V(Tj),-200,999)-25)*4m))}
Rsa   s1     s    1Meg
Ls    source s1   {Ls*if(dgfs==99,0,1)}
Ld    drain  d1   {Ld*if(dgfs==99,0,1)}

Rth1  Tj      t1              {36.28m+limit(Zthtype,0,1)*13.42m}
Rth2  t1      t2              {354.32m+limit(Zthtype,0,1)*131.13m}
Rth3  t2      t3              {2.1+limit(Zthtype,0,1)*389.18m}
Rth4  t3      t4              {7.52+limit(Zthtype,0,1)*3.23}
Rth5  t4      Tcase           {7.85+limit(Zthtype,0,1)*3.37}
Cth1  Tj      0               9.457u
Cth2  t1      0               28.085u
Cth3  t2      0               256.579u
Cth4  t3      0               6.76m
Cth5  t4      0               48.845m


.ENDS

**********

.SUBCKT BSL716SN_L1 drain gate source PARAMS: dVth=0 dRdson=0 dgfs=0 dC=0

.PARAM Rs=0.012     Rg=22        Ls=3n        Ld=1n        Lg=3n
.PARAM Inn=2.5      Unn=10       Rmax=0.15
.PARAM act=1.088

X1  d1 g s Tj K_75_y_var PARAMS: a={act} dVth={dVth} dR={dRdson} Inn={Inn} Unn={Unn} 
                                        +Rmax={Rmax} dgfs={dgfs} Rs={Rs} dC={dC} 
Rg    g1     g    {Rg}   
Lg    gate   g1   {Lg*if(dgfs==99,0,1)}
Gs    s1     s    VALUE={V(s1,s)/(Rs*(1+(limit(V(Tj),-200,999)-25)*4m))}
Rsa   s1     s    1Meg
Ls    source s1   {Ls*if(dgfs==99,0,1)}
Ld    drain  d1   {Ld*if(dgfs==99,0,1)}

E1    Tj     w      VALUE={TEMP}
R1    w      0      1u

.ENDS

**********

.SUBCKT BSP716N_L1 drain gate source PARAMS: dVth=0 dRdson=0 dgfs=0 dC=0

.PARAM Rs=0.014     Rg=22        Ls=3n        Ld=1n        Lg=3n
.PARAM Inn=2.3      Unn=10       Rmax=0.16
.PARAM act=1.088

X1  d1 g s Tj K_75_y_var PARAMS: a={act} dVth={dVth} dR={dRdson} Inn={Inn} Unn={Unn} 
                                        +Rmax={Rmax} dgfs={dgfs} Rs={Rs} dC={dC} 
Rg    g1     g    {Rg}   
Lg    gate   g1   {Lg*if(dgfs==99,0,1)}
Gs    s1     s    VALUE={V(s1,s)/(Rs*(1+(limit(V(Tj),-200,999)-25)*4m))}
Rsa   s1     s    1Meg
Ls    source s1   {Ls*if(dgfs==99,0,1)}
Ld    drain  d1   {Ld*if(dgfs==99,0,1)}

E1    Tj     w      VALUE={TEMP}
R1    w      0      1u

.ENDS

**********


.SUBCKT BSL716SN_L0  drain  gate  source

Lg     gate  g1    3n
Ld     drain d1    1n
Ls     source s1   3n
Rs      s1    s2   0.012

Rg     g1    g2     22
M1      d2    g2    s2    s2    DMOS    L=1u   W=1u
.MODEL DMOS NMOS ( KP= 19.04  VTO=1.88  THETA=0  VMAX=1.5e5  ETA=0.004  LEVEL=3)
Rd     d2    d1    0.105 TC=9m

Dbd     s2    d2    Dbt
.MODEL     Dbt    D(BV=90   M=0.75  CJO=212.16p  VJ=1V)
Dbody   s2   21    DBODY
.MODEL DBODY  D(IS=119.7p  N=1.3  RS=17u  EG=1.12  TT=30n)
Rdiode  d1  21    17m TC=5m

.MODEL   sw    NMOS(VTO=0  KP=10   LEVEL=1)
Maux      g2   c    a    a   sw
Maux2     b    d    g2    g2   sw
Eaux      c    a    d2    g2   1
Eaux2     d    g2   d2    g2   -1
Cox       b    d2   522.24p
.MODEL     DGD    D(M=1   CJO=522.24p   VJ=0.5)
Rpar      b    d2   1Meg
Dgd       a    d2   DGD
Rpar2     d2   a    10Meg
Cgs     g2    s2    217.6p
Cox1     d2  g2    9.07p

.ENDS  BSL716SN_L0

******

.SUBCKT BSP716N_L0  drain  gate  source

Lg     gate  g1    3n
Ld     drain d1    1n
Ls     source s1   3n
Rs      s1    s2   0.014

Rg     g1    g2     22
M1      d2    g2    s2    s2    DMOS    L=1u   W=1u
.MODEL DMOS NMOS ( KP= 19.04  VTO=1.88  THETA=0  VMAX=1.5e5  ETA=0.004  LEVEL=3)
Rd     d2    d1    0.105 TC=9m

Dbd     s2    d2    Dbt
.MODEL     Dbt    D(BV=90   M=0.75  CJO=212.16p  VJ=1V)
Dbody   s2   21    DBODY
.MODEL DBODY  D(IS=119.7p  N=1.3  RS=17u  EG=1.12  TT=30n)
Rdiode  d1  21    17m TC=5m

.MODEL   sw    NMOS(VTO=0  KP=10   LEVEL=1)
Maux      g2   c    a    a   sw
Maux2     b    d    g2    g2   sw
Eaux      c    a    d2    g2   1
Eaux2     d    g2   d2    g2   -1
Cox       b    d2   522.24p
.MODEL     DGD    D(M=1   CJO=522.24p   VJ=0.5)
Rpar      b    d2   1Meg
Dgd       a    d2   DGD
Rpar2     d2   a    10Meg
Cgs     g2    s2    217.6p
Cox1     d2  g2    9.07p

.ENDS  BSP716N_L0

******

